US09062070B2
Step A: 5-ethenyl-2-benzofuran-1(3H)-one
5-Bromophthalide (50 g, 235 mmol), potassium vinyl trifluoroborate (62.9 g, 469 mmol), and PdCl2(dppf)-CH2Cl2 Adduct (9.58 g, 11.7 mmol) were added to ethanol (500 mL) then TEA (65.4 mL, 469 mmol) was added. The reaction mixture was degassed then heated at reflux for 8 h. The reaction was worked up by diluting with ethyl acetate and washing with brine twice. The organic layer was dried and evaporated to dryness. The crude product was purified by MPLC (silica, 600 g column) with 25% EtOAc/hexane (3 L) then with 30% EtOAc/Hexane (2 L) to yield the title compound.

reactant | 5-Bromophthalide | 235 mmol, 50 g | BrC=1C=C2COC(=O)C2=CC1 | C8H5BrO2
reactant | ethanol | 500 mL | C(C)O | C2H6O
catalyst | PdCl2(dppf) CH2Cl2 | 11.7 mmol, 9.58 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-ethenyl-2-benzofuran-1(3H)-one | C(=C)C1=CC2=C(C(OC2)=O)C=C1 | C10H8O2
